US08232288B2
Stage (iv): Methyl 2-amino-3-(2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)acetamido)benzoate (E-08)
2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenylsulfonamido)acetic acid was reacted with methyl 2,3-diaminobenzoate (1.3 eq.) in the presence of EDCl (1 eq.), HOBT (1 eq.) and DIPEA (10 eq.) and the desired product thereby formed was employed directly in the next stage without further working up. Yield: 75%

reactant | 2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenylsulfonamido)acetic acid | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC(=O)O | C14H19NO5S
reactant | methyl 2,3-diaminobenzoate | 1.3 eq. | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | EDCl | 1 eq. | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 10 eq. | CCN(C(C)C)C(C)C | C8H19N
product | Methyl 2-amino-3-(2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)acetamido)benzoate | Yield: 75% | NC1=C(C(=O)OC)C=CC=C1NC(CN(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C1CC1)=O | C22H27N3O6S
